US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-{[(1R)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide
A mixture of 3-{[6-(azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide (101 mg, 0.25 mmol), S-(+)-methoxy-2-propanol (0.049 mL, 0.50 mmol) and triphenyl phosphine (131 mg, 0.50 mmol) in dry THF (10 mL) was treated dropwise with DIAD (0.099 mL, 0.50 mmol) at 0° C. under an argon atmosphere. The mixture was allowed to warm to RT and stirred overnight. The THF was removed by evaporation under reduced pressure and the residue purified twice by chromatography on silica, eluting with 0-7% methanol in DCM. The desired fractions were combined and purified by elution through an SCX column, eluted with 5% methanol in DCM then 50% 7N ammonia (in methanol) in DCM. The desired fractions were purified by elution though an NH2 column, eluting with 5% methanol in DCM, to give the desired compound (35 mg) with a purity estimated to be 85%. 1H NMR δ (CDCl3): 1.26 (d, 3H), 2.28 (quin, 2H), 2.49 (s, 3H), 3.33 (s, 3H), 3.41-3.54 (m, 2H), 4.18 (t, 2H), 4.50-4.58 (m, 1H), 4.64 (t, 2H), 6.77 (s, 1H), 7.08 (s, 1H), 7.25 (s, 1H), 7.31 (d, 1H), 8.04 (d, 1H), 8.07 (s, 1H), 8.26 (d, 1H), 8.30 (s, 1H), 9.46 (s, 1H); m/z 478 (M+H)+

reactant | 3-{[6-(azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide | 0.25 mmol, 101 mg | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O | C21H19N5O4
reactant | triphenyl phosphine | 0.50 mmol, 131 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.50 mmol, 0.099 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-{[(1R)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide | 35 mg | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@@H](COC)C | C25H27N5O5
